US08012974B2
A mixture of 1-[1-(2-cyano-acetyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.09 g, 0.197 mmol) and lithium tetrafluoroborate (0.184 g, 1.967 mmol) in 2 mL of a 9/1 mixture of acetonitrile and H2O was stirred at 85° C. for 24 hours before being cooled to RT (almost no solvent left). The reaction mixture was diluted in 2 mL of a 9/1 mixture of acetonitrile and H2O, ethylenediamine (0.066 mL, 0.983 mmol) was added and the resulting mixture was stirred at RT for 3 hours before being evaporated. The residue was partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous layer was back extracted twice with EtOAc. The combined organic layers were dried (Na2SO4), filtered, and evaporated. The fairly insoluble residue was adsorbed onto silica purified by SiO2 flash chromatography (DCM/(DCM:MeOH:NH4OH 60:10:1] 90% to 0% DCM) to give 0.008 g of (1-[1-(2-cyano-acetyl)-piperidin-3-yl]-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea (14% yield).

reactant | 1-[1-(2-cyano-acetyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.197 mmol, 0.09 g | C(#N)CC(=O)N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C21H31N7O3Si
reactant | lithium tetrafluoroborate | 1.967 mmol, 0.184 g | F[B-](F)(F)F.[Li+]
reactant | ethylenediamine | 0.983 mmol, 0.066 mL | C(CN)N | C2H8N2
solvent | H2O | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[1-(2-cyano-acetyl)-piperidin-3-yl]-3-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-urea | 14% yield | C(#N)CC(=O)N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)NC=C2 | C15H17N7O2
